US08242124B2
To a solution of methyl 1-(4-methoxy-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazole-3-carboxylate (220 mg, 0.805 mmol) in THF (20 mL) was added LiAlH4 (1.208 mL, 2.415 mmol) dropwise over 5 min period at room temperature. The solution was refluxed for 1H and then cooled in an ice bath. The reaction mixture was quenched with water and extracted with EtOAc (3×100 ml). The organic layers were combined, washed with brine (30 ml), dried under MgSO4 and concentrated. The residue was purified by prep. HPLC to give (1-(4-methoxy-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazol-3-yl)methanol (100 mg, 0.408 mmol, 50.6% yield). LCMS: m/z 246.2 (M+H)+, 1.36 min (method 8). 1H NMR (500 MHz, MeOD) δ ppm 9.24 (s, 1H) 7.53 (s, 1H) 7.47 (d, J=3.05 Hz, 1H) 6.68 (d, J=2.75 Hz, 1H) 4.84 (s, 2H) 4.03 (s, 3H).

reactant | methyl 1-(4-methoxy-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazole-3-carboxylate | 0.805 mmol, 220 mg | COC1=C2C(=C(N=C1)N1N=C(N=C1)C(=O)OC)NC=C2 | C12H11N5O3
reactant | LiAlH4 | 2.415 mmol, 1.208 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (1-(4-methoxy-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazol-3-yl)methanol | 0.408 mmol, 100 mg, 50.6% yield | COC1=C2C(=C(N=C1)N1N=C(N=C1)CO)NC=C2 | C11H11N5O2
